US08865726B2
To a solution of (S,E)-2-(2-fluoro-4-(5-(4-(5-fluoropyridin-2-yl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzylidene)hydrazinecarboxamide (26 mg, 0.054 mmol) in acetic acid (0.6 mL) was added sodium acetate (44 mg, 0.54 mmol). After complete dissolution of the salt, a dilute solution of Br2 (2.7 μL, 0.054 mmol) in acetic acid was slowly added dropwise in portions. The reaction mixture was stirred at ambient temperature for 1 hour. The reaction mixture was applied directly on a preparative TLC plate. Acetic acid was removed under a stream of air, and the preparative TLC plate was developed with 10% MeOH in DCM to afford (S)-3-(3-(4-(5-amino-1,3,4-oxadiazol-2-yl)-3-fluorophenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one (7.9 mg, 31% yield) as a yellow solid. MS (APCI+) m/z 477 [M+H]+.

reactant | (S,E)-2-(2-fluoro-4-(5-(4-(5-fluoropyridin-2-yl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzylidene)hydrazinecarboxamide | 0.054 mmol, 26 mg | FC1=C(\C=N\NC(=O)N)C=CC(=C1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=NC=C(C=C2)F)=O | C22H16F2N8O3
reactant | sodium acetate | 0.54 mmol, 44 mg | C(C)(=O)[O-].[Na+]
reactant | Br2 | 0.054 mmol, 2.7 μL | BrBr | Br2
solvent | acetic acid | 0.6 mL | C(C)(=O)O | C2H4O2
product | (S)-3-(3-(4-(5-amino-1,3,4-oxadiazol-2-yl)-3-fluorophenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one | 7.9 mg, 31% yield | NC1=NN=C(O1)C1=C(C=C(C=C1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=NC=C(C=C2)F)=O)F | C22H14F2N8O3
